US07427632B2
Benzyl N-[(R)-1-(Isopropyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]carbamate
Using alkylation method A, benzyl N-[(R)-1-(isopropyl)-2-(piperidin-4-ylmethoxy)ethyl]carbamate (1.1 g, 3.2 mmol) and acetone (5 mL, 68 mmol) afforded 1.1 g (92%) of the title compound.

reactant | benzyl N-[(R)-1-(isopropyl)-2-(piperidin-4-ylmethoxy)ethyl]carbamate | 3.2 mmol, 1.1 g | C(C)(C)[C@H](COCC1CCNCC1)NC(OCC1=CC=CC=C1)=O | C19H30N2O3
reactant | acetone | 68 mmol, 5 mL | CC(=O)C | C3H6O
product | Benzyl N-[(R)-1-(Isopropyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]carbamate | 1.1 g, 92% | C(C)(C)[C@H](COCC1CCN(CC1)C(C)C)NC(OCC1=CC=CC=C1)=O | C22H36N2O3
